US08871756B2
2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-amine
To a solution of oxone (670 mg, 1.117 mmol) in water (2.5 mL), which was cooled below 0° C. in an ice-bath, was added a solution of 2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-amine (300 mg, 0.930 mmol) in methanol (15 mL) and tetrahydrofuran (3 mL) dropwise. The resulting mixture was stirred below 0° C. for 2 hours. The formed precipitate was collected by filtration, washed with water and dried in vacuo to afford the desired product as a white solid. MS obsd. (ESI+) [(M+H)+] 355, 1H NMR (400 MHz, DMSO-d6) δ ppm 7.91-7.86 (m, 2 H), 7.77 (s, 1 H), 7.64-7.60 (t, J=16.0 Hz, 1 H), 7.51-7.48 (m, 2 H), 7.37-7.35 (d, J=8.0 Hz, 1 H), 5.06 (s, 2 H), 4.37 (s, 2 H), 3.59 (s, 2 H), 2.31 (s, 3 H).

reactant | oxone | 1.117 mmol, 670 mg | OOS(=O)[O-].[K+]
reactant | 2-(2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-amine | 0.930 mmol, 300 mg | S1CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=N2)N)C | C18H18N4S
solvent | water | 2.5 mL | O | H2O
solvent | methanol | 15 mL | CO | CH4O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-amine | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=N2)N)C)=O | C18H18N4O2S
